US06271238B1
(1) 1-Allyl-5-amino-6-oxo-2-phenyl-1,6-dihydropyrimidine
4 N hydrogen chloride/dioxane (31 ml, 122.2 mmol) was added to a solution of 1-allyl-5-t-butyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine (2 g, 6.11 mmol) in methanol (12 ml) under cooling on ice and stirred at 0° C. for 30 minutes and at room temperature overnight. The reaction solution was concentrated under reduced pressure whereby the title compound (1.49 g, 93%) was obtained as white solid.

reactant | hydrogen chloride dioxane | 122.2 mmol, 4 N, 31 ml | Cl.O1CCOCC1
reactant | 1-allyl-5-t-butyloxycarbonylamino-6-oxo-2-phenyl-1,6-dihydropyrimidine | 6.11 mmol, 2 g | C(C=C)N1C(=NC=C(C1=O)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C18H21N3O3
solvent | methanol | 12 ml | CO | CH4O
product | 1-Allyl-5-amino-6-oxo-2-phenyl-1,6-dihydropyrimidine | C(C=C)N1C(=NC=C(C1=O)N)C1=CC=CC=C1 | C13H13N3O
